US05124335
To a stirred solution of 1-(benzenesulfonyl)-1H-pyrrolo[2,3-b]pyridine (400 mG, 1.55 mmol) in tetrahydrofuran (15 mL) at -78° C. was added n-BuLi (0.74 mL of a 2.5M solution in hexane, 1.86 mmol) dropwise. The mixture was stirred 1 h at -78° C. then warmed to rt for 5 min. The mixture was again cooled to -78° C. then iodo propane (0.45 mL, 4.65 mmol) was added and the mixture was stirred 1 h at rt. Water was added, and extractive workup (EtOAc) and purification (SiO2, 20% EtOAc/hexane) gave 1-(benzenesulfonyl)-2-propyl-1H-pyrrolo[2,3-b]-pyridine.

reactant | 1-(benzenesulfonyl)-1H-pyrrolo[2,3-b]pyridine | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2 | C13H10N2O2S
reactant | n-BuLi | [Li]CCCC
reactant | iodo propane | 4.65 mmol, 0.45 mL | ICCC | C3H7I
reactant | Water | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(benzenesulfonyl)-2-propyl-1H-pyrrolo[2,3-b]-pyridine | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)CCC | C16H16N2O2S
